US09024027B2
A mixture of 2-(7-nitro-1H-indol-1-yl)acetic acid (0.15 g, 0.681 mmol), EDC (0.131 g, 0.681 mmol), DMAP (0.128 g, 1.048 mmol) and (S)-3,5-dichloro-4-(2-(3-(cyclopropylmethoxy)-4-(difluoromethoxy)phenyl)-2-hydroxyethyl)pyridine 1-oxide (0.220 g, 0.524 mmol) in dry DCM (15 ml) was stirred at room temperature for 16 hours. Aqueous 2N HCl was added, and the organic phase was separated and dried over sodium sulfate; the solvent was removed and the crude was triturated with MeOH. The precipitate was filtered, washed with MeOH and dried affording (S)-3,5-dichloro-4-(2-(3-(cyclopropylmethoxy)-4-(difluoromethoxy)phenyl)-2-(2-(7-nitro-1H-indol-1-yl)acetoxy)ethyl)pyridine 1-oxide (0.066 g, 0.106 mmol, 20% yield). MS/ESI+ 622.1 [MH]+; [αD]=−112.6, c=0.22, MeOH; 1H NMR (300 MHz, DMSO-d6) δ ppm 8.44 (s, 2H), 8.00 (dd, 1H), 7.82 (dd, 1H), 7.52 (d, 1H), 7.22 (t, 1H), 7.16 (d, 1H), 7.05 (d, 1H), 6.92 (dd, 1H), 7.06 (t, 1H), 6.76 (d, 1H), 5.95 (dd, 1H), 5.30 (d, 1H), 5.17 (d, 1H), 3.90 (d, 2H), 3.33-3.54 (m, 1H), 3.18 (dd, 1H), 0.99-1.39 (m, 1H), 0.48-0.72 (m, 2H), 0.36 (q, 2H).

reactant | 2-(7-nitro-1H-indol-1-yl)acetic acid | 0.681 mmol, 0.15 g | [N+](=O)([O-])C=1C=CC=C2C=CN(C12)CC(=O)O | C10H8N2O4
reactant | EDC | 0.681 mmol, 0.131 g
reactant | (S)-3,5-dichloro-4-(2-(3-(cyclopropylmethoxy)-4-(difluoromethoxy)phenyl)-2-hydroxyethyl)pyridine 1-oxide | 0.524 mmol, 0.220 g | ClC=1C=[N+](C=C(C1C[C@H](O)C1=CC(=C(C=C1)OC(F)F)OCC1CC1)Cl)[O-] | C18H17Cl2F2NO4
reactant | HCl | 2N | Cl | ClH
catalyst | DMAP | 1.048 mmol, 0.128 g | CN(C)C=1C=CN=CC1 | C7H10N2
solvent | DCM | 15 ml | C(Cl)Cl | CH2Cl2
product | (S)-3,5-dichloro-4-(2-(3-(cyclopropylmethoxy)-4-(difluoromethoxy)phenyl)-2-(2-(7-nitro-1H-indol-1-yl)acetoxy)ethyl)pyridine 1-oxide | 0.106 mmol, 0.066 g, 20% yield | ClC=1C=[N+](C=C(C1C[C@H](OC(CN1C=CC2=CC=CC(=C12)[N+](=O)[O-])=O)C1=CC(=C(C=C1)OC(F)F)OCC1CC1)Cl)[O-] | C28H23Cl2F2N3O7
